US05864039
60% Sodium hydride (1.33 g) was suspended in dimethylformamide (40 ml), and benzyl alcohol (3 g) was added under ice-cooilng with stirring. The mixture was stirred at room temperature for 1 hr. The mixture was again ice-cooled, and 1,5-dibromopentane (6.4 g) was added, which was followed by stirring at room temperature for 3 hr. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried and the solvent was evaporated under reduced pressure to give 7.2 g of 5-benzyloxypentyl bromide.

reactant | Sodium hydride | 1.33 g | [H-].[Na+]
reactant | benzyl alcohol | 3 g | C(C1=CC=CC=C1)O | C7H8O
reactant | 1,5-dibromopentane | 6.4 g | BrCCCCCBr | C5H10Br2
reactant | Water | O | H2O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 5-benzyloxypentyl bromide | 7.2 g | C(C1=CC=CC=C1)OCCCCCBr | C12H17BrO
